US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid pyridin-3-ylamide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 3-Aminopyridine instead of 3-chloroaniline to yield the final compound as a white crystalline, MS (ISP): m/e=309.3 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 3-Aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C17H13FN4O
